US09102596B2
After the water layer was separated, the oil layer was condensed or otherwise adjusted so that the concentration of the mixture of 1,3-bis(4-hydroxyphenyl)-1-cyclohexene and 1,5-bis(4-hydroxyphenyl)-1-cyclohexene became 17%. 79.6 g of the concentration-adjusted solution, 14.8 g of α-methyl styrene and 0.8 g of 5% palladium carbon were introduced to an autoclave and agitated for 6 hours at 150° C. After the reaction, the reaction liquid was filtered to remove the 5% palladium carbon, and then the methyl isobutyl ketone was distilled out, after which 40 g of toluene was added and the separated crystal was filtered out and dried to obtain 6.9 g of 4,4″-dihydroxy-m-terphenyl of 97% purity (high-speed liquid chromatography) [Step (C)].

reactant | 1,3-bis(4-hydroxyphenyl)-1-cyclohexene | OC1=CC=C(C=C1)C1=CC(CCC1)C1=CC=C(C=C1)O | C18H18O2
reactant | 1,5-bis(4-hydroxyphenyl)-1-cyclohexene | OC1=CC=C(C=C1)C1=CCCC(C1)C1=CC=C(C=C1)O | C18H18O2
reactant | α-methyl styrene | 14.8 g | CC(=C)C1=CC=CC=C1 | C9H10
catalyst | palladium carbon | 0.8 g | [C].[Pd]
product | 4,4″-dihydroxy-m-terphenyl | 6.9 g, Yield: 53% | OC1=CC=C(C=C1)C1=CC(=CC=C1)C1=CC=C(C=C1)O | C18H14O2
